US09416135B2
A mixture of (R)-methyl 2-(5-bromo-4-(trifluoromethyl)pyrimidin-2-yl)-1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate (7 mg, 0.012 mmol), Pd(PPh3)4 (1 mg, cat. Amount), 2M aq. K2CO3 solution (100 μL, excess), and dry 1,4-Dioxane (700 μL) was degassed and refilled with nitrogen gas for 3 times. A solution of 2,4,6-trimethyl-1,3,5,2,4,6-trioxatriborinane (5 mg, excess) in dry 1,4-Dioxane (100 μL) was added. The mixture was heated in a microwave oven for 30 minutes at 120° C. After concentration, the residue was filtered and purified by Gilson to afford 3.5 mg (R)-methyl 1-isopropyl-2-(5-methyl-4-(trifluoromethyl)pyrimidin-2-yl)-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate (56% yield). LC-MS: m/z 512.3 [M+H]+.

reactant | (R)-methyl 2-(5-bromo-4-(trifluoromethyl)pyrimidin-2-yl)-1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate | 0.012 mmol, 7 mg | BrC=1C(=NC(=NC1)N1[C@@H](C=2N(CC1)C1=C(N2)C=C(C(=C1)S(=O)(=O)C)C(=O)OC)C(C)C)C(F)(F)F | C21H21BrF3N5O4S
reactant | K2CO3 | 2M, 100 μL | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(PPh3)4 | 1 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,4-Dioxane | 700 μL | O1CCOCC1 | C4H8O2
product | (R)-methyl 1-isopropyl-2-(5-methyl-4-(trifluoromethyl)pyrimidin-2-yl)-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate | 3.5 mg, 56% yield | C(C)(C)[C@@H]1C=2N(CCN1C1=NC=C(C(=N1)C(F)(F)F)C)C1=C(N2)C=C(C(=C1)S(=O)(=O)C)C(=O)OC | C22H24F3N5O4S
